US04373060
β,β-Diphenyl-α-cyanoacrylic chloride (II).
To 100 ml. of toluene solution containing 50 g. (0.2 mole) of β,β-diphenyl-α-cyanoacrylic acid, 30 g. (0.25 mole) of thionyl chloride is added and the solution is refluxed overnight. After cooling, yellow prisms are collected to give 49.5 g., 92% yield of product, m.p. 157°-158° C.

reactant | β,β-diphenyl-α-cyanoacrylic acid | 0.2 mole | C1(=CC=CC=C1)C(=C(C(=O)O)C#N)C1=CC=CC=C1 | C16H11NO2
reactant | thionyl chloride | 0.25 mole | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | β,β-Diphenyl-α-cyanoacrylic chloride | 92% yield | C1(=CC=CC=C1)C(=C(C(=O)Cl)C#N)C1=CC=CC=C1 | C16H10ClNO
